US04345084
A mixture of 2-fluoro-5-hexynoic acid (3.0 g, 23.05 mmol) and 2-amino-2-methyl-1-propanol (2.05 g, 23.05 mmol) in 150 ml of dry xylene was refluxed for 16 h. The water formed during the reaction was removed by Linde 3A molecular sieves (15 g) contained in a continuous extractor. The xylene was then distilled off at atmospheric pressure, and the resulting pot material was taken into ether (100 ml). The ethereal solution was washed with saturated sodium bicarbonate solution, water, and dried over MgSO4. Evaporation of ether at 35° C./~35 mm, and distillation of the resulting crude product gave 2.4 g (57%) of 2-(1-fluoro-4-pentynyl)-4,5-dihydro-4,4-dimethyloxazole as a colorless liquid, bp 62°-66° C./0.6 mmHg. EXAMPLE 5

reactant | 2-fluoro-5-hexynoic acid | 23.05 mmol, 3.0 g | FC(C(=O)O)CCC#C | C6H7FO2
reactant | 2-amino-2-methyl-1-propanol | 23.05 mmol, 2.05 g | NC(CO)(C)C | C4H11NO
reactant | water | O | H2O
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(1-fluoro-4-pentynyl)-4,5-dihydro-4,4-dimethyloxazole | 2.4 g, 57% | FC(CCC#C)C=1OCC(N1)(C)C | C10H14FNO
